2193-05-30 07:20:00 Physician Resident Progress Note
Chief Complaint: n/a
   24 Hour Events:
 INVASIVE VENTILATION - START [**2193-5-29**] 11:32 PM
 ARTERIAL LINE - START [**2193-5-29**] 11:54 PM
 MULTI LUMEN - START [**2193-5-29**] 11:54 PM
   placed in or during code situation
   GNR in [**1-27**] blood cx from post-op cultures through a-line
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Aztreonam - [**2193-5-30**] 12:00 AM
   Infusions:
   Epinephrine - 0.01 mcg/Kg/min
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-5-29**] 11:45 PM
   Other medications:
   ASA 81
   Plavix
   Protonix
   Insulin
   Nephrocaps
   Cinacalcet
   Lanthanum
   Calcium carbonate
   Colace
   Tylenol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-5-30**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.3
C (99.2
   HR: 72 (72 - 82) bpm
   BP: 100/39(59) {100/37(59) - 124/47(72)} mmHg
   RR: 21 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (13 - 15)mmHg
   Total In:
                                                                     14 mL
                                                                  1,798 mL
   PO:
   TF:
   IVF:
                                                                     14 mL
                                                                    398 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    350 mL
   Urine:
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                     14 mL
                                                                  1,448 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 560 (560 - 560) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 115
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.45/39/121/25/3
   Ve: 11.9 L/min
   PaO2 / FiO2: 242
   Physical Examination
   GEN: intubated, sedated, ill appearing
   HEENT: no JVD, intubated, OG tube in place
   CVS: RRR, no MRG
   RESP:  CTAB
   ABD:  obese, soft, NT/ND
   EXT: left wrist in bandage, blood blister on left finger, left BKA,
   right MTA
   Labs / Radiology
   177 K/uL
   12.0 g/dL
   280 mg/dL
   25 mEq/L
   4.7 mEq/L
   47 mg/dL
   92 mEq/L
   132 mEq/L
   35.9 %
   13.1 K/uL
        [image002.jpg]
                             [**2193-5-30**]  12:57 AM
                             [**2193-5-30**]  06:00 AM
                             [**2193-5-30**]  06:14 AM
   WBC
   13.1
   Hct
   35.9
   Plt
   177
   TropT
   0.90
   TCO2
   28
   Glucose
   280
   Other labs: CK / CKMB / Troponin-T:381/3/0.90, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:5.3 mg/dL
   TEE (prelim): No thrombus is seen in the left atrial appendage. No
   atrial septal defect is seen by 2D or color Doppler. The left
   ventricular cavity is moderately dilated. There is severe regional left
   ventricular systolic dysfunction with XXX. Overall left ventricular
   systolic function is severely depressed (LVEF= XX %). Right ventricular
   chamber size is normal. with severe global free wall hypokinesis. No
   thoracic aortic dissection is seen. There is no aortic valve stenosis.
   No aortic regurgitation is seen. Mild (1+) mitral regurgitation is
   seen. Moderate [2+] tricuspid regurgitation is seen. There is no
   pericardial effusion. Dr. [**Last Name (STitle) 8991**] was notified in person of the results on
   XX at XX.
ARTERIAL LINE BLOOD CULTURE ([**2193-5-29**])
   Blood Culture, Routine (Preliminary):
      GRAM NEGATIVE ROD(S).
   Anaerobic Bottle Gram Stain (Final [**2193-5-30**]):
      REPORTED BY PHONE TO DR. [**Last Name (STitle) **] [**Last Name (NamePattern4) **] ON [**2193-5-30**] AT 0605.
      GRAM NEGATIVE ROD(S).
LEFT WRIST SWAB ([**2193-5-29**]):
   GRAM STAIN (Final [**2193-5-29**]):
      2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
      3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      REPORTED BY PHONE TO DR [**Last Name (STitle) **] AT 2300 ON [**2193-5-29**].
   WOUND CULTURE (Preliminary):
   ANAEROBIC CULTURE (Preliminary):
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 ACUTE RESPIRATORY DISTR
   64 yo M with MMP including ESRD on HD, IDDM, PVD s/p amputations, CAD
   s/p CABG and stents, CHF EF 30-40% s/p PEA arrest and septic left wrist
   joint.
   # PEA arrest: Appears to have been secondary to hypoxia but events are
   somewhat unclear. It is possible that during induction and LMA
   placement pt became hypoxic which precipitated bradycardia and PEA.
   Likewise, the patient may have had a profound vagal episode during
   intubation. In the anesthesia record, he received esmolol and
   metoprolol which may have precipitated or contributed to bradycardia.
   Patient may also have had an MI, although with bradycardia you would
   expect inferior wall involvement and there are no changes in EKG in
   II,III and AVF. There was a suggestion in quick intra-op echo that his
   EF was further depression; no tamponade or effusion. Per cardiology, no
   evidence of MI or cardiogenic shock. PE is also a possibility, but
   [**Doctor Last Name 1808**] criteria is low at 1.5%. Patient's K was not elevated. No PTX
   clinically or on CXR.  This morning off pressors and doing well on SBT.
   Takotsubo
s may be a possibility as well.
   - extubate now
   - will need to discuss events with anesthesia
   - f/u emergency TEE done peri-op, obtain formal TTE today
   - cycle enzymes, continue to monitor on telemetry
   # Septic joint: S/p wash out in OR with [**Known firstname **] pus. Wound culture with
   GNR's, also 2/2 bottles from A-line w/ GNRs. Has PCN allergy of hives.
   [**Month (only) 60**] be polymicrobial, esp given his DM2 and culture data history. GPCs
   may not grow as he was on Vanc prior to OR.
   - cont Aztrenam, re-start Vancomycin
   - f/u culture data
   - send surveillance cultures, pull A-line
   - monitor fever curve and WBC count
   - f/u plastics recs
   # ESRD on HD: Cr 10. M,W,F at [**Location (un) 7553**]. Nephrologist Dr.
   [**First Name (STitle) 460**]
   - renal fellow aware
   - continue renal caps, phos binders
   - renal diet
   #CAD: hx of CABG and stents
   - continue ASA, plavix
   #CHF - H/o systolic and diastolic HF. Echo [**12-29**] showed EF 30-40%.
   Currently not in decompensated heart failure with minimal peripheral
   edema.
   - Volume removal with HD
   - f/u TEE, check official TTE today
   #PVD: stable, continue ASA
   #DM:
   - QID FS, diabetic diet
   - will give 1/2 dose of home standing insulin as he is NPO = 20units
   NPH [**Hospital1 **]
   #HTN: Currently normotensive. Not on antihypertensives as outpatient.
   - fluid removal with HD
   #FEN: NPO
   #PPX: protonix, HSC, bowel regimen
   ACCESS: PIV
   CODE: FULL
   CONTACT: Brother [**Telephone/Fax (1) 8986**]
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin
   Lines:
   Arterial Line - [**2193-5-29**] 11:54 PM
   Multi Lumen - [**2193-5-29**] 11:54 PM (sterile femoral line)
   20 Gauge - [**2193-5-30**] 04:11 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:
   Code status: Full code
   Disposition: ICU

2193-05-30 08:10:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: Respiratory failure
   HPI: HPI:
   65 yom HTN, NIDDM, ESRD
 HD, CAD, PVD admitted to ICU s/p PEA arrest
   post-op.
   Pt. in USOH until 3 days PTA when developed increasing pain and
   swelling in left wrist.  Initially admitted to [**Hospital1 54**] with T= 101.4,
   WBC= 13.6, pain in left hand (probable left hand cellulitis
   determined to have septic left wrist.  Lack of appreciable progress on
   antimicrobials prompted scheduling for surgical debridement.
   During anesthesia induction reportedly developed hypoxia, bradycardia
   and hypotension (?possible brief asystole)
 received CPR, epinephrine
   and atropine, with eventual hemodynamic stabalization.  Proceeded with
   surgical
washout
 procedure of left wrist
 drainage of purulant
   material from left wrist.  Received numerous pharmacological agents
   during procedure.
   Following return to PACU, experienced recurrent hypoxia, bradycardia,
   hypotension
 responded to epinephrine and phenylephrine infusions.
   Remained intubated. This is unclear if he was extubated post op or
   still intubted from the initial procedure.  Transferred to MICU for
   further evaluation and management.
   24 Hour Events:
   Micro called growing gram negatives from A-line in the OR.
   changed to aztremonam
   Plastics saw him this AM will keep wick I for now.
 INVASIVE VENTILATION - START [**2193-5-29**] 11:32 PM
 ARTERIAL LINE - START [**2193-5-29**] 11:54 PM
 MULTI LUMEN - START [**2193-5-29**] 11:54 PM
   placed in or during code situation
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Aztreonam - [**2193-5-30**] 08:00 AM
   Infusions:
   Epinephrine - 0.01 mcg/Kg/min (Off)
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-5-30**] 08:00 AM
   Other medications:
   aztreonam 1g q8hr
   RISS, fixed dose 20 units 70/30
   lanthanum
   tums
   nephrocaps
   asa 81 qday
   cinicalsat
   plavix
   colace
   heprin 5K tid
   prop 10
   protonix
   Changes to medical and family history:
   No Changes.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-5-30**] 08:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.2
   HR: 77 (72 - 82) bpm
   BP: 135/51(80) {100/37(59) - 135/51(80)} mmHg
   RR: 17 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 17 (13 - 17)mmHg
   Total In:
                                                                     14 mL
                                                                  1,922 mL
   PO:
   TF:
   IVF:
                                                                     14 mL
                                                                    522 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    350 mL
   Urine:
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                     14 mL
                                                                  1,572 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 560 (560 - 560) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 115
   PIP: 20 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.45/39/121/25/3
   Ve: 11.9 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Gen-Awake responds and squeezes hands
   HEENT-PERRL
   Heart-Tachy s1s2
   Lungs-CTA anteriorly
   Abd-Soft, NT, ND +BS
   Ext-left wrist in bandage, blood blister on left finger, left leg with
   partial amputation and right foot amputation
   Neuro-Moves all 4 extermities
   Labs / Radiology: Chest-Opacity in right/ small effusion
   12.0 g/dL
   177 K/uL
   280 mg/dL
   6.7 mg/dL
   25 mEq/L
   4.7 mEq/L
   47 mg/dL
   92 mEq/L
   132 mEq/L
   35.9 %
   13.1 K/uL
        [image002.jpg]
   Micro-gram negative rods in blood
                             [**2193-5-30**]  12:57 AM
                             [**2193-5-30**]  06:00 AM
                             [**2193-5-30**]  06:14 AM
   WBC
   13.1
   Hct
   35.9
   Plt
   177
   Cr
   6.7
   TropT
   0.90
   TCO2
   28
   Glucose
   280
   Other labs: CK / CKMB / Troponin-T:381/3/0.90, Ca++:8.2 mg/dL, Mg++:1.9
   mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
   Sepsis, left wrist (infected joint) with gram negative bactermia.  s/p
   arrest in OR.
   SEPSIS
 evidence for GNR bacteremia (1/4 bottles).  Likely related to
   septic left wrist in a diabetic patient.
   -S/p drainage.  Continue broad spectrum antimicrobials.
   -Will continue azteronam and Vanc and f/u culture data.
   RESPIRATORY FAILURE
 postoperative.  Attributed to sepsis, although
   may be contribution of hemodynamic instability.  Also, new RLL density
   (pleural effusion vs. pleural thickening +/- infiltrate).     Unclear
   etiology of PEA arrest.  Appears to be related to hypoxia and
   bradycardia. Will consider bipap as his size and sedation could
   predispose him to OSA.
   PEA arrest
 attributed to hypoxemia, although details not well
   defined.  [**Month (only) 60**] be related to pharmocological agents.  Continue to
   monitor post-op.
   HYPOTENSION
Resolved.
   ELEVATED TROPONIN
 likely demand event rather than primary cardiac event
   -Will trend enzymes
   -Repeat ECHO.
   RENAL FUNCTION
 Continue HD as planned.
   NIDDM
 monitor blood glucose, maintain <150.
   ICU Care
   Nutrition: Advance when extubated
   Glycemic Control:
   Lines: Fem line (OR) Will have a PICC line placed when cx negative and
   remove fem line.
   Arterial Line - [**2193-5-29**] 11:54 PM (OR with gram negatives in blood)
   Will remove art line
   Multi Lumen - [**2193-5-29**] 11:54 PM
   20 Gauge - [**2193-5-30**] 04:11 AM
   Prophylaxis:
   DVT:  Heprin
   Stress ulcer:  PPI
   VAP:
   Comments:
   Code status: Full
   Disposition : may be stable to transfer tonight
   Total time spent:  35 minutes
   Addendum: Remains bacteremic without evidence of shock. Was extubated
   at 9am. Cultures reviewed
 GNR growing from a-line and fem-line, not
   yet speciated. Wrist swab also growing GNRs. Femoral line removed
   today. Has facemask 35% O2 as he does not like nasal canula. Good
   appetite, complaining of pain. Stable to transfer to floor. Continue
   Aztreonam. Would d/c Vanc at this point unless condition changes.
   Total time 35 minutes.

2193-05-31 08:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: none complaints
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2193-5-30**] 09:20 AM
 BLOOD CULTURED - At [**2193-5-30**] 10:30 AM
 TRANSTHORACIC ECHO - At [**2193-5-30**] 11:00 AM
 ARTERIAL LINE - STOP [**2193-5-30**] 11:30 AM
 MULTI LUMEN - STOP [**2193-5-30**] 04:00 PM
   placed in or during code situation
   [**5-30**]
   - extubated without issue
   - continued to be delirious during the day requiring frequent
   reorientation
   - repeat echo showed EF 20%
   - complaining of chronic lower back pain
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Aztreonam - [**2193-5-30**] 09:49 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2193-5-30**] 09:13 PM
   Hydromorphone (Dilaudid) - [**2193-5-31**] 01:21 AM
   Heparin Sodium (Prophylaxis) - [**2193-5-31**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-5-31**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 88 (70 - 109) bpm
   BP: 88/27(41) {88/27(41) - 133/89(102)} mmHg
   RR: 22 (9 - 25) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  3,261 mL
                                                                    235 mL
   PO:
                                                                  1,200 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    661 mL
                                                                    185 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  2,911 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 0 cmH2O
   FiO2: 35%
   RSBI: 47
   SpO2: 94%
   ABG: ///20/
   Ve: 16.5 L/min
   Physical Examination
   GEN: extubated, pleasant, calm, tangential, forgetful
   HEENT: no JVD, intubated, OG tube in place
   CVS: RRR, no MRG
   RESP:  CTAB
   ABD:  obese, soft, NT/ND
   EXT: left wrist in bandage, blood blister on left finger, left BKA,
   right MTA
   Labs / Radiology
   215 K/uL
   13.6 g/dL
   78 mg/dL
   9.1 mg/dL
   20 mEq/L
   6.3 mEq/L
   72 mg/dL
   89 mEq/L
   133 mEq/L
   40.8 %
   18.8 K/uL
        [image002.jpg]
                             [**2193-5-30**]  12:57 AM
                             [**2193-5-30**]  06:00 AM
                             [**2193-5-30**]  06:14 AM
                             [**2193-5-31**]  04:56 AM
   WBC
   13.1
   18.8
   Hct
   35.9
   40.8
   Plt
   177
   215
   Cr
   6.7
   9.1
   TropT
   0.90
   0.90
   0.80
   TCO2
   28
   Glucose
   280
   78
   Other labs: CK / CKMB / Troponin-T:[**Numeric Identifier 9004**]/23/0.80,
   Differential-Neuts:81.0 %, Band:1.0 %, Lymph:9.0 %, Mono:7.0 %, Eos:0.0
   %, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:8.8 mg/dL
   Imaging: TTE - There is severe global left ventricular hypokinesis
   (LVEF = 20 %). with severe global free wall hypokinesis. There is
   moderate pulmonary artery systolic hypertension. There is no
   pericardial effusion. Compared with the findings of the prior study
   (images reviewed) of [**2193-5-29**], severe right and left ventricular
   contractile dysfunction is still present.
   Microbiology: [**2193-5-29**] 3:30 pm SWAB      LEFT WRIST.
      GRAM STAIN (Final [**2193-5-29**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         REPORTED BY PHONE TO DR [**Last Name (STitle) **] AT 2300 ON [**2193-5-29**].
      WOUND CULTURE (Preliminary):
         GRAM NEGATIVE ROD(S).    HEAVY GROWTH.
      ANAEROBIC CULTURE (Preliminary):
   Blood Cx [**4-27**] GNRs
   Blood Cx (surveillance) since [**5-30**] NGTD
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
   64 yo M with MMP including ESRD on HD, IDDM, PVD s/p amputations, CAD
   s/p CABG and stents, CHF EF 30-40% s/p PEA arrest and septic left wrist
   joint.
   # PEA arrest: Appears to have been secondary to hypoxia but events are
   somewhat unclear. It is possible that during induction and LMA
   placement pt became hypoxic which precipitated bradycardia and PEA.
   Likewise, the patient may have had a profound vagal episode during
   intubation. In the anesthesia record, he received esmolol and
   metoprolol which may have precipitated or contributed to bradycardia.
   Patient may also have had an MI, although with bradycardia you would
   expect inferior wall involvement and there are no changes in EKG in
   II,III and AVF. There was a suggestion in quick intra-op echo that his
   EF was further depression; no tamponade or effusion. Per cardiology, no
   evidence of MI or cardiogenic shock. PE is also a possibility, but
   [**Doctor Last Name 1808**] criteria is low at 1.5%. Patient's K was not elevated. No PTX
   clinically or on CXR. Takotsubo
s may be a possibility as well,
   although TTE does not suggest such. TTE does show reduced EF. Extubated
   yesterday without problem. Now w/ significantly elevated CK, but not
   cardiac fraction, and troponin is down; also w/ significant electrolyte
   abnormalities.
   - will need to monitor CK closely
   - continue to monitor on telemetry
    -start ACE-i for reduced EF, DM and CAD
   # Elevated CK - Significantly elevated compared to prior. Unclear
   etiology, does not appear to have compartment syndrome from recent
   wrist surgery. He does also have significant electrolyte abnormalities
   and creatinine bump. ? Rhabdo - would not improve with IVF anyway,
   needs HD. ? if any anethesia medications could cause a NMS-type
   syndrome, but pt has not had high fever (low temps at 99). Plastics
   evaluated and did not think pt had compartment syndrome with good
   pulses and no pain in left forearm. No seizure activity documented
   during event in OR.
   - follow CK
   - renal team aware, to do HD early today, may need 2nd HD session per
   electrolytes
   - appreciate Plastics surgery recs and renal recs
   - monitor closely
   # Confusion - Pt still delirious and requiring frequent re-orientation,
   not improving off mind-altering medications. Could have sustained
   anoxic brain injury during code and hypoxia.
   - consider haldol for agitation
   - frequent re-orientation
   - ? need for head imaging if not improving
   # Septic joint: S/p wash out in OR with [**Known firstname **] pus. Wound culture with
   GNR's, also 2/2 bottles from A-line w/ GNRs. Has PCN allergy of hives.
   [**Month (only) 60**] be polymicrobial, esp given his DM2 and culture data history. GPCs
   may not grow as he was on Vanc prior to OR.
   - cont Aztreonam, Vancomycin
   - f/u culture data
   - send surveillance cultures
   - monitor fever curve and WBC count
   - f/u plastics recs
   - needs OT to mobilize wrist
   .
   # Leukocytosis: WBC rising to 18, but only low grade temps and BP
   stable. GNR in blood
   - monitor hemodynamics
   - surveillance cx
   - cont Vanc, Aztreonam
   # ESRD on HD: Cr 10. M,W,F at [**Location (un) 7553**]. Nephrologist Dr.
   [**First Name (STitle) 460**]
   - renal fellow aware
   - continue renal caps, phos binders
   - renal diet
   #CAD: hx of CABG and stents
   - continue ASA, plavix
   - will need to investigate why pt is not on BB or statin and consider
   starting these medications; no statin while CK is elevated
   #CHF - H/o systolic and diastolic HF. Echo [**12-29**] showed EF 30-40% but
   now reduced to EF 20%. Currently not in decompensated heart failure
   with minimal peripheral edema.
   - Volume removal with HD
   - f/u TEE, check official TTE today
   - start ACEi
   - will need to investigate why pt is not on BB
   #PVD: stable, continue ASA
   #DM:
   - QID FS, diabetic diet
   - will give 1/2 dose of home standing insulin as he is NPO = 20units
   NPH [**Hospital1 **]
   #HTN: Currently normotensive. Not on antihypertensives as outpatient.
   - fluid removal with HD
   FEN: NPO
   PPX: protonix, HSC, bowel regimen
   ACCESS: PIV
   CODE: FULL
   CONTACT: Brother [**Telephone/Fax (1) 8986**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2193-5-30**] 02:24 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: consider calling out to floor after dialysis

2193-05-31 10:25:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: Respiratory failure
   HPI: HPI:
   65 yom HTN, NIDDM, ESRD
 HD, CAD, PVD admitted to ICU s/p PEA arrest
   post-op.
   Pt. in USOH until 3 days PTA when developed increasing pain and
   swelling in left wrist.  Initially admitted to [**Hospital1 54**] with T= 101.4,
   WBC= 13.6, pain in left hand (probable left hand cellulitis
   determined to have septic left wrist.  Lack of appreciable progress on
   antimicrobials prompted scheduling for surgical debridement.
   During anesthesia induction reportedly developed hypoxia, bradycardia
   and hypotension (?possible brief asystole)
 received CPR, epinephrine
   and atropine, with eventual hemodynamic stabalization.  Proceeded with
   surgical
washout
 procedure of left wrist
 drainage of purulant
   material from left wrist.  Received numerous pharmacological agents
   during procedure.
   Following return to PACU, experienced recurrent hypoxia, bradycardia,
   hypotension
 responded to epinephrine and phenylephrine infusions.
   Remained intubated. This is unclear if he was extubated post op or
   still intubted from the initial procedure.  Transferred to MICU for
   further evaluation and management
   24 Hour Events:
   TTE-low EF 20% WITH SEVER GLOBAL  DIFFUSE HYPOKINESIS
 INVASIVE VENTILATION - STOP [**2193-5-30**] 09:20 AM
 BLOOD CULTURED - At [**2193-5-30**] 10:30 AM
 TRANSTHORACIC ECHO - At [**2193-5-30**] 11:00 AM
 ARTERIAL LINE - STOP [**2193-5-30**] 11:30 AM
 MULTI LUMEN - STOP [**2193-5-30**] 04:00 PM
   placed in or during code situation
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Aztreonam - [**2193-5-30**] 09:49 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2193-5-30**] 09:13 PM
   Hydromorphone (Dilaudid) - [**2193-5-31**] 01:21 AM
   Heparin Sodium (Prophylaxis) - [**2193-5-31**] 06:00 AM
   Other medications:
   aztreonam 1g q12hr
   Vanc with HD
   RISS, fixed dose 20 units 70/30
   lanthanum
   tums
   nephrocaps
   asa 81 qday
   cinicalsat
   plavix
   colace
   heprin 5K tid
   protonix
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-5-31**] 10:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 88 (70 - 109) bpm
   BP: 88/27(41) {88/27(41) - 133/89(102)} mmHg
   RR: 22 (9 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  3,261 mL
                                                                    620 mL
   PO:
                                                                  1,200 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    661 mL
                                                                    570 mL
   Blood products:
   Total out:
                                                                    350 mL
                                                                      0 mL
   Urine:
   NG:
                                                                    350 mL
   Stool:
   Drains:
   Balance:
                                                                  2,911 mL
                                                                    620 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   Gen-Awake responds still confused but now calm
   HEENT-PERRL
   Heart-Tachy s1s2
   Lungs-CTA anteriorly
   Abd-Soft, NT, ND +BS
   Ext-left wrist in bandage, blood blister on left finger, left leg with
   partial amputation and right foot amputation
   Neuro-Moves all 4 extermities
   Labs / Radiology:
   13.6 g/dL
   215 K/uL
   78 mg/dL
   9.1 mg/dL
   20 mEq/L
   6.3 mEq/L
   72 mg/dL
   89 mEq/L
   133 mEq/L
   40.8 %
   18.8 K/uL
        [image002.jpg]
                             [**2193-5-30**]  12:57 AM
                             [**2193-5-30**]  06:00 AM
                             [**2193-5-30**]  06:14 AM
                             [**2193-5-31**]  04:56 AM
   WBC
   13.1
   18.8
   Hct
   35.9
   40.8
   Plt
   177
   215
   Cr
   6.7
   9.1
   TropT
   0.90
   0.90
   0.80
   TCO2
   28
   Glucose
   280
   78
   Other labs: CK / CKMB / Troponin-T:[**Numeric Identifier 9004**]/23/0.80,
   Differential-Neuts:81.0 %, Band:1.0 %, Lymph:9.0 %, Mono:7.0 %, Eos:0.0
   %, Ca++:8.7 mg/dL, Mg++:2.4 mg/dL, PO4:8.8 mg/dL
   Microbiology: [**2193-5-29**] 3:30 pm SWAB      LEFT WRIST.
      GRAM STAIN (Final [**2193-5-29**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         REPORTED BY PHONE TO DR [**Last Name (STitle) **] AT 2300 ON [**2193-5-29**].
      WOUND CULTURE (Preliminary):
         GRAM NEGATIVE ROD(S).    HEAVY GROWTH.
      ANAEROBIC CULTURE (Preliminary):
   Blood Cx [**4-27**] GNRs
   Blood Cx (surveillance) since [**5-30**] NGTD
   Assessment and Plan
   Sepsis, left wrist (infected joint) with gram negative bacteremia.  s/p
   arrest in OR with now global reduction in EF.
   HYPOTENSION/CV
Resolved. But now has significantly depressed EF
   unclear etiology suspect stunned myocardium
   -Will start low dose ace and beta blocker but unclear why he is not on
   a beta blocker as outpatient
   -Continue outpt antiplatlet meds
   -Will also consider restarting statin
   SEPSIS
 evidence for GNR bacteremia (1/4 bottles).  Likely related to
   septic left wrist in a diabetic patient.
   -S/p drainage.  Continue broad spectrum antimicrobials.
   -Will continue azteronam and d
c Vanc and f/u culture data.
   -F/U wbc
   CONFUSION-
   -new from baseline per family
   -[**Month (only) 60**] be related to hypoemia secondary to event
   -Will follow as he has had improvement and provide support if any
   change will scan Head.
   Elevated CK
   -Susepect related to hypotensive from code
   -will trend CK
   RESPIRATORY FAILURE -resolved
 postoperative.  Attributed to sepsis, although may be contribution of
   hemodynamic instability.  Also, new RLL density (pleural effusion vs.
   pleural thickening +/- infiltrate).     Unclear etiology of PEA
   arrest.  Appears to be related to hypoxia and bradycardia. Will
   consider bipap as his size and sedation could predispose him to OSA.
   PEA arrest
 attributed to hypoxemia, although details not well
   defined.  [**Month (only) 60**] be related to pharmocological agents.  Continue to
   monitor post-op.
   ELEVATED TROPONIN
 likely demand event rather than primary cardiac event
   -Will trend enzymes
   RENAL FUNCTION
 Continue HD as planned.
   NIDDM
 monitor blood glucose, maintain <150.
   -Continue outpt NPH at reduced dose may need to increase.
   ICU Care
   Nutrition: Renal DM diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2193-5-30**] 02:24 PM
   Prophylaxis:
   DVT: Hep Sq
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Floor later today after dialysis
   Total time spent: Time 35 minutes

2193-06-01 07:38:00 Physician Resident Progress Note
Chief Complaint: back pain, no CP, SOB
   24 Hour Events:
   - improved CK / lytes post-HD
   - not called out [**2-25**] nursing care
   - chronic low back pain = pilo-nidal cyst! needs surgery c/s
   History obtained from Medical records
   Allergies:
   History obtained from Medical recordsPenicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2193-5-31**] 02:00 PM
   Aztreonam - [**2193-5-31**] 09:19 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-5-31**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2193-5-31**] 09:19 PM
   Hydromorphone (Dilaudid) - [**2193-6-1**] 02:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-6-1**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 86 (83 - 98) bpm
   BP: 106/58(70) {72/31(34) - 126/88(92)} mmHg
   RR: 12 (10 - 29) insp/min
   SpO2: 89%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,312 mL
                                                                     76 mL
   PO:
                                                                    450 mL
             TF:
   IVF:
                                                                  1,862 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,312 mL
                                                                     76 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///24/
   Physical Examination
   GEN: extubated, pleasant, calm, tangential, forgetful
   HEENT: no JVD, intubated, OG tube in place
   CVS: RRR, no MRG
   RESP:  CTAB
   ABD:  obese, soft, NT/ND
   EXT: left arm non-tender, good distal pulses, warm, good capillary
   refill, left wrist in bandage, blood blister on left finger, left BKA,
   right MTA; per plastics some purulence still expressed from left wrist
   Labs / Radiology
   165 K/uL
   11.2 g/dL
   114 mg/dL
   6.7 mg/dL
   24 mEq/L
   4.3 mEq/L
   60 mg/dL
   95 mEq/L
   136 mEq/L
   35.0 %
   16.7 K/uL
        [image002.jpg]
                             [**2193-5-30**]  12:57 AM
                             [**2193-5-30**]  06:00 AM
                             [**2193-5-30**]  06:14 AM
                             [**2193-5-31**]  04:56 AM
                             [**2193-5-31**]  01:09 PM
                             [**2193-5-31**]  05:43 PM
                             [**2193-6-1**]  04:36 AM
                             [**2193-6-1**]  05:45 AM
   WBC
   13.1
   18.8
   16.7
   Hct
   35.9
   40.8
   35.0
   Plt
   177
   215
   165
   Cr
   6.7
   9.1
   3.9
   6.7
   TropT
   0.90
   0.90
   0.80
   0.73
   0.77
   0.76
   TCO2
   28
   Glucose
   280
   78
   180
   171
   114
   Other labs: CK / CKMB / Troponin-T:7842/18/0.76,
   Differential-Neuts:81.0 %, Band:1.0 %, Lymph:9.0 %, Mono:7.0 %, Eos:0.0
   %, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:6.0 mg/dL
   Imaging: CXR [**5-29**]:As compared to the previous radiograph, there is no
   relevant
   change. Moderate cardiomegaly, small right-sided pleural effusion, the
   subtle
   bilateral parenchymal opacities are unchanged in density and extent. No
   newly occurred focal parenchymal opacities. No evidence of
   overhydration.
   Microbiology: [**5-29**]: GRAM STAIN (Final [**2193-5-29**]):
         2+   (1-5 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         3+  (5-10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         REPORTED BY PHONE TO DR [**Last Name (STitle) **] AT 2300 ON [**2193-5-29**].
      WOUND CULTURE (Preliminary):
         PASTEURELLA MULTOCIDA.    HEAVY GROWTH.
      ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED.
   Blood Cx: 5/6 2/2 bottles GNR;[**5-30**], 5/8,[**6-1**] all NGTD
   Assessment and Plan
 CARDIAC ARREST
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
   64 yo M with MMP including ESRD on HD, IDDM, PVD s/p amputations, CAD
   s/p CABG and stents, CHF EF 30-40% s/p PEA arrest and septic left wrist
   joint.
   # PEA arrest: Appears to have been secondary to hypoxia but events are
   somewhat unclear. It is possible that during induction and LMA
   placement pt became hypoxic which precipitated bradycardia and PEA.
   Likewise, the patient may have had a profound vagal episode during
   intubation. In the anesthesia record, he received esmolol and
   metoprolol which may have precipitated or contributed to bradycardia.
   Patient may also have had an MI, although with bradycardia you would
   expect inferior wall involvement and there are no changes in EKG in
   II,III and AVF. There was a suggestion in quick intra-op echo that his
   EF was further depression; no tamponade or effusion. Per cardiology, no
   evidence of MI or cardiogenic shock. PE is also a possibility, but
   [**Doctor Last Name 1808**] criteria is low at 1.5%. Patient's K was not elevated. No PTX
   clinically or on CXR. Takotsubo
s may be a possibility as well,
   although TTE does not suggest such. TTE does show reduced EF. Extubated
   yesterday without problem. Now w/ significantly elevated CK, but not
   cardiac fraction, and troponin is down; also w/ significant electrolyte
   abnormalities.
   - will need to monitor CK closely
   - continue to monitor on telemetry
    - cont ACE-i for reduced EF, DM and CAD
   # Elevated CK - Significantly elevated compared to prior. Unclear
   etiology, does not appear to have compartment syndrome from recent
   wrist surgery. He does also have significant electrolyte abnormalities
   and creatinine bump. ? Rhabdo - would not improve with IVF anyway,
   needs HD. ? if any anethesia medications could cause a NMS-type
   syndrome, but pt has not had high fever (low temps at 99). Plastics
   evaluated and did not think pt had compartment syndrome with good
   pulses and no pain in left forearm. No seizure activity documented
   during event in OR.
   - follow CK
   - renal team aware, to do HD early today
   - appreciate Plastics surgery recs and renal recs
   - monitor closely
   # Confusion - Pt still delirious and requiring frequent re-orientation,
   not improving off mind-altering medications. Could have sustained
   anoxic brain injury during code and hypoxia. Confusion improving, no
   HCT needed
   - consider haldol for agitation
   - frequent re-orientation
   # Septic joint: S/p wash out in OR with [**Known firstname **] pus. Wound culture with
   GNR's, also 2/2 bottles from A-line w/ GNRs. Has PCN allergy of hives.
   [**Month (only) 60**] be polymicrobial, esp given his DM2 and culture data history. GPCs
   may not grow as he was on Vanc prior to OR. Swab cx growing pasturella;
   blood cultures still GNR.
   - cont Aztreonam day 3
   - dc Vancomycin day 6
   - consult ID
   - f/u culture data
   - send surveillance cultures
   - monitor fever curve and WBC count
   - f/u plastics recs: needs left wrist soaks in warm water with dilute
   betadyne QID
   - needs OT to mobilize wrist
   .
   # Leukocytosis: WBC rose to 18 now down to 16, but only low grade temps
   and BP stable. GNR in blood
   - monitor hemodynamics
   - surveillance cx
   - cont Aztreonam
   - dc vanc
   # Pilonidal cyst: very painful
   - call gen surgery
   -  if  gen surgery will see him here, the keep in ICU for cyst
   removal/drainage
   # ESRD on HD: Cr 10. M,W,F at [**Location (un) 7553**]. Nephrologist Dr.
   [**First Name (STitle) 460**] . Dialyzed yesdterday
   - renal fellow aware
   - continue renal caps, phos binders
   - renal diet
   #CAD: hx of CABG and stents. Pt reports that he has low BP and
   orthostasis with BB. He also describes debilitating myalgias on
   lipitor.
   - continue ASA, plavix
   #CHF - H/o systolic and diastolic HF. Echo [**12-29**] showed EF 30-40% but
   now reduced to EF 20%. Currently not in decompensated heart failure
   with minimal peripheral edema. ? stunned
   - Volume removal with HD
   -  cont  ACEi
   #PVD: stable, continue ASA
   #DM:
   - QID FS, diabetic diet
   - will give 1/2 dose of home standing insulin as he is NPO = 20units
   NPH [**Hospital1 **]
   #HTN: Currently normotensive. Not on antihypertensives as outpatient.
   - fluid removal with HD
   FEN: cardiac diabetic diet
   PPX: protonix, HSC, bowel regimen
   ACCESS: PIV
   CODE: FULL
   CONTACT: Brother [**Telephone/Fax (1) 8986**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2193-5-31**] 09:25 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2193-06-01 07:43:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: Respiratory failure
   HPI: HPI:
   65 yom HTN, NIDDM, ESRD
 HD, CAD, PVD admitted to ICU s/p PEA arrest
   post-op.
   Pt. in USOH until 3 days PTA when developed increasing pain and
   swelling in left wrist.  Initially admitted to [**Hospital1 54**] with T= 101.4,
   WBC= 13.6, pain in left hand (probable left hand cellulitis
   determined to have septic left wrist.  Lack of appreciable progress on
   antimicrobials prompted scheduling for surgical debridement.
   During anesthesia induction reportedly developed hypoxia, bradycardia
   and hypotension (?possible brief asystole)
 received CPR, epinephrine
   and atropine, with eventual hemodynamic stabalization.  Proceeded with
   surgical
washout
 procedure of left wrist
 drainage of purulant
   material from left wrist.  Received numerous pharmacological agents
   during procedure.
   Following return to PACU, experienced recurrent hypoxia, bradycardia,
   hypotension
 responded to epinephrine and phenylephrine infusions.
   Remained intubated. This is unclear if he was extubated post op or
   still intubted from the initial procedure.  Transferred to MICU for
   further evaluation and management
   24 Hour Events:
   Extubated yesterday morning successfully
   C/O buttock  pain (history of pilonidal cyst)
 plan to call surgery
   consult for drainage.
   CK of [**Numeric Identifier 182**] noted yesterday
 7000 today.
   Wrist wound culture: pasturella.
   Blood Cx: [**2-27**] GNR.
   Blood Cx [**5-31**] from aline: + yeast (line since d/c
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2193-5-31**] 02:00 PM (day 7)
   Aztreonam - [**2193-5-31**] 09:19 PM (day 3)
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-5-31**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2193-5-31**] 09:19 PM
   Hydromorphone (Dilaudid) - [**2193-6-1**] 02:10 AM
   Other medications:
   RISS
   nephrocaps
   Asa 81 qd
   plavix
   Senacal
   colace
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-6-1**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 86 (83 - 98) bpm
   BP: 106/58(70) {72/31(34) - 126/88(92)} mmHg
   RR: 12 (10 - 29) insp/min
   SpO2: 89% - (poor pleth)
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,312 mL
                                                                     77 mL
   PO:
                                                                    450 mL
             TF:
   IVF:
                                                                  1,862 mL
                                                                     77 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,312 mL
                                                                     77 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: non-focal
   CV: regular no murmus
   Lungs: distant breath sounds bl.
   Abd: soft, obese
   EXT: left BKA, Right MTA
   Skin: pilonidal cyst.
   Labs / Radiology
   11.2 g/dL
   165 K/uL
   114 mg/dL
   6.7 mg/dL
   24 mEq/L
   4.3 mEq/L
   60 mg/dL
   95 mEq/L
   136 mEq/L
   35.0 %
   16.7 K/uL
        [image002.jpg]
                             [**2193-5-30**]  12:57 AM
                             [**2193-5-30**]  06:00 AM
                             [**2193-5-30**]  06:14 AM
                             [**2193-5-31**]  04:56 AM
                             [**2193-5-31**]  01:09 PM
                             [**2193-5-31**]  05:43 PM
                             [**2193-6-1**]  04:36 AM
                             [**2193-6-1**]  05:45 AM
   WBC
   13.1
   18.8
   16.7
   Hct
   35.9
   40.8
   35.0
   Plt
   177
   215
   165
   Cr
   6.7
   9.1
   3.9
   6.7
   TropT
   0.90
   0.90
   0.80
   0.73
   0.77
   0.76
   TCO2
   28
   Glucose
   280
   78
   180
   171
   114
   Other labs: CK / CKMB / Troponin-T:7842/18/0.76,
   Differential-Neuts:81.0 %, Band:1.0 %, Lymph:9.0 %, Mono:7.0 %, Eos:0.0
   %, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
   64 yo M with MMP including ESRD on HD, IDDM, PVD s/p amputations, CAD
   s/p CABG and stents, CHF EF 30-40% s/p PEA arrest and septic left wrist
   joint.
   # PEA arrest: Appears to have been secondary to hypoxia but events are
   somewhat unclear. It is possible that during induction and LMA
   placement pt became hypoxic which precipitated bradycardia and PEA.
   Likewise, the patient may have had a profound vagal episode during
   intubation. In the anesthesia record, he received esmolol and
   metoprolol which may have precipitated or contributed to bradycardia.
   Patient may also have had an MI, although with bradycardia you would
   expect inferior wall involvement and there are no changes in EKG in
   II,III and AVF. There was a suggestion in quick intra-op echo that his
   EF was further depression; no tamponade or effusion. Per cardiology, no
   evidence of MI or cardiogenic shock. PE is also a possibility, but
   [**Doctor Last Name 1808**] criteria is low at 1.5%. Patient's K was not elevated. No PTX
   clinically or on CXR. Takotsubo
s may be a possibility as well,
   although TTE does not suggest such. TTE does show reduced EF. Extubated
   yesterday without problem. Now w/ significantly elevated CK, but not
   cardiac fraction, and troponin is down; also w/ significant electrolyte
   abnormalities.
   - will need to monitor CK closely
   - continue to monitor on telemetry
    -start ACE-i for reduced EF, DM and CAD
   # Elevated CK - Significantly elevated compared to prior. Unclear
   etiology, does not appear to have compartment syndrome from recent
   wrist surgery. He does also have significant electrolyte abnormalities
   and creatinine bump. ? Rhabdo - would not improve with IVF anyway,
   needs HD. ? if any anethesia medications could cause a NMS-type
   syndrome, but pt has not had high fever (low temps at 99). Plastics
   evaluated and did not think pt had compartment syndrome with good
   pulses and no pain in left forearm. No seizure activity documented
   during event in OR.
   - follow CK
   - appreciate Plastics surgery recs and renal recs
   - monitor closely
   # Confusion - Pt still delirious and requiring frequent re-orientation,
   not improving off mind-altering medications. Could have sustained
   anoxic brain injury during code and hypoxia.
   - consider haldol for agitation
   - frequent re-orientation
   - ? need for head imaging if not improving
   # Septic joint: S/p wash out in OR with [**Known firstname **] pus. Wound culture with
   GNR's, also 2/2 bottles from A-line w/ GNRs. Has PCN allergy of hives.
   [**Month (only) 60**] be polymicrobial, esp given his DM2 and culture data history. GPCs
   may not grow as he was on Vanc prior to OR.
   - cont Aztreonam, Vancomycin
   - f/u culture data
   - send surveillance cultures
   - monitor fever curve and WBC count
   - f/u plastics recs
   - needs OT to mobilize wrist
   .
   # Leukocytosis: WBC rising to 18, but only low grade temps and BP
   stable. GNR in blood
   - monitor hemodynamics
   - surveillance cx
   - ID consult appreciated.  Will d/c vanco and await speciation of blood
   cultures.  Consider changing aztreonam to levaquin.  Will start
   micafungin per ID.
   # ESRD on HD: Cr 10. M,W,F at [**Location (un) 7553**]. Nephrologist Dr.
   [**First Name (STitle) 460**]
   - renal fellow aware; no HD today per fellow.
   - continue renal caps, phos binders
   - renal diet
   #CAD: hx of CABG and stents
   - continue ASA, plavix
   - will need to investigate why pt is not on BB or statin and consider
   starting these medications; no statin while CK is elevated
   #CHF - H/o systolic and diastolic HF. Echo [**12-29**] showed EF 30-40% but
   now reduced to EF 20%. Currently not in decompensated heart failure
   with minimal peripheral edema.
   - Volume removal with HD
   - f/u TEE, check official TTE today
   - start ACEi
   - will need to investigate why pt is not on BB
   #PVD: stable, continue ASA
   #DM:
   - QID FS, diabetic diet
   - will give 1/2 dose of home standing insulin as he is NPO = 20units
   NPH [**Hospital1 **]
   #HTN: Currently normotensive. Not on antihypertensives as outpatient.
   - fluid removal with HD
   #: pilonidal cyst- will call surgery for drainage.
   FEN: NPO
   PPX: protonix, HSC, bowel regimen
   ACCESS: PIV
   CODE: FULL
   CONTACT: Brother [**Telephone/Fax (1) 8986**]
   #DISPO: to floor after surgery sees him for his pilonidal cyst
 area
   appears necrotic per surgery and may need debridement today. Will keep
   in ICU for now pending decision to bring to OR.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2193-5-31**] 09:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Total time spent: 37 minutes

2193-06-01 07:55:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Penicillins
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2193-5-31**] 02:00 PM
   Aztreonam - [**2193-5-31**] 09:19 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2193-5-31**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2193-5-31**] 09:19 PM
   Hydromorphone (Dilaudid) - [**2193-6-1**] 02:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-6-1**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 90 (83 - 98) bpm
   BP: 112/50(70) {72/31(34) - 126/88(92)} mmHg
   RR: 18 (10 - 29) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,312 mL
                                                                     79 mL
   PO:
                                                                    450 mL
             TF:
   IVF:
                                                                  1,862 mL
                                                                     79 mL
   Blood products:
   Total out:
                                                                  1,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,312 mL
                                                                     79 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.2 g/dL
   165 K/uL
   114 mg/dL
   6.7 mg/dL
   24 mEq/L
   4.3 mEq/L
   60 mg/dL
   95 mEq/L
   136 mEq/L
   35.0 %
   16.7 K/uL
        [image002.jpg]
                             [**2193-5-30**]  12:57 AM
                             [**2193-5-30**]  06:00 AM
                             [**2193-5-30**]  06:14 AM
                             [**2193-5-31**]  04:56 AM
                             [**2193-5-31**]  01:09 PM
                             [**2193-5-31**]  05:43 PM
                             [**2193-6-1**]  04:36 AM
                             [**2193-6-1**]  05:45 AM
   WBC
   13.1
   18.8
   16.7
   Hct
   35.9
   40.8
   35.0
   Plt
   177
   215
   165
   Cr
   6.7
   9.1
   3.9
   6.7
   TropT
   0.90
   0.90
   0.80
   0.73
   0.77
   0.76
   TCO2
   28
   Glucose
   280
   78
   180
   171
   114
   Other labs: CK / CKMB / Troponin-T:7842/18/0.76,
   Differential-Neuts:81.0 %, Band:1.0 %, Lymph:9.0 %, Mono:7.0 %, Eos:0.0
   %, Ca++:7.7 mg/dL, Mg++:2.2 mg/dL, PO4:6.0 mg/dL
   Assessment and Plan
 CARDIAC ARREST
 RENAL FAILURE, END STAGE (END STAGE RENAL DISEASE, ESRD)
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2193-5-31**] 09:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: